US07851634B2
28 4-Bromo-2-(3-methoxypropoxy)pyridine
11 mmol of silver carbonate and 20 mmol of 1-iodo-3-methoxypropane [61542-10-7] are added under an argon atmosphere to a solution of 21 mmol of 4-bromo-1H-pyridin-2-one [36953-37-4] in 30 ml of benzene. The reaction mixture is heated to 45° C. with exclusion of light for 2 days. The mixture is cooled to room temperature and filtered through Hyflo. The filtercake is washed with benzene and with saturated, aqueous sodium hydrogencarbonate solution. The phases of the filtrate are separated and the aqueous phase is extracted with dichloromethane (3×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60 F).

reactant | 1-iodo-3-methoxypropane | 20 mmol | ICCCOC | C4H9IO
reactant | 4-bromo-1H-pyridin-2-one | 21 mmol | BrC1=CC(NC=C1)=O | C5H4BrNO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 11 mmol | C([O-])([O-])=O.[Ag+2]
product | 4-Bromo-2-(3-methoxypropoxy)pyridine | BrC1=CC(=NC=C1)OCCCOC | C9H12BrNO2
